US07417040B2
To a mixture of 8-Bromo-2-chloro-5,6-dihydro-dibenzo[b,f]azocine (0.8 g, 2.5 mmole) in toluene (10 mL) was added acetic anhydride (1.2 mL, 12.5 mmole) and N,N-dimethylaminopyridine (1.51 g, 12.5 mmole). The reaction mixture was refluxed for 2 hours, concentrated and purified by flash chromatography over silica gel eluting with 30% ethyl acetate/hexane to give 1-(8-Bromo-2-chloro-6H-dibenzo[b,f]azocin-5-yl)-ethanone (0.65 g, 72%). 1HNMR (CDCl3) δ7.32 (d, 1H, J=1.76 Hz), 7.23 (dd, 1H, J=7.70, 1.76 Hz), 7.19 (m, 2H), 7.06 (d, 1H, J=8.80 Hz), 6.91 (d, 1H, J=8.36 Hz), 6.68 (d, 1H, J=13.16 Hz), 6.47 (d, 1H, J=12.76 Hz), 5.42 (d, 1H, J=14.96 Hz), 4.08 (d, 1H, J=15.36 Hz), 1.68 (s, 3H). HPLC Rt=4.05 min. m/z=362 (M+H+).

reactant | 8-Bromo-2-chloro-5,6-dihydro-dibenzo[b,f]azocine | 2.5 mmole, 0.8 g | BrC1=CC2=C(C=CC3=C(NC2)C=CC(=C3)Cl)C=C1 | C15H11BrClN
reactant | acetic anhydride | 12.5 mmole, 1.2 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(8-Bromo-2-chloro-6H-dibenzo[b,f]azocin-5-yl)-ethanone | 0.65 g, 72% | BrC1=CC2=C(C=CC3=C(N(C2)C(C)=O)C=CC(=C3)Cl)C=C1 | C17H13BrClNO
